US08389554B2
(5-Iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-propyl-amine
663 mg of imidazo[2,1-b][1,3,4]thiadiazol-2-yl-propyl-amine were dissolved in 20 ml of acetonitrile. 822 mg of N-iodosuccinimide were added to the solution. The reaction mixture was stirred for 4 h at room temperature. For work-up, the mixture was cooled on ice and filtrated. 410 mg of the desired product were obtained.

reactant | imidazo[2,1-b][1,3,4]thiadiazol-2-yl-propyl-amine | 663 mg | S1C=2N(N=C1NCCC)C=CN2 | C7H10N4S
reactant | N-iodosuccinimide | 822 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (5-Iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-propyl-amine | 410 mg | IC1=CN=C2SC(=NN21)NCCC | C7H9IN4S
